US04329347
6-(5-Phenylsulfinyl-pentoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 2 from 6-(5-phenylmercapto-pentoxy)-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 6-(5-phenylmercapto-pentoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)SCCCCCOC=1C=C2CCC(NC2=CC1)=O | C20H23NO2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-(5-Phenylsulfinyl-pentoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)S(=O)CCCCCOC=1C=C2CCC(NC2=CC1)=O | C20H23NO3S
